US09403798B2
3-{4-[(4-Chlorobenzyl)oxy]benzyl}-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione
In argon atmosphere, to an N,N-dimethylformamide solution (5 mL) of 6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione (200 mg, 0.69 mmol) synthesized in Reference Synthesis Example 18, lithium hydride (12 mg, 1.51 mmol) was added at 0° C. and the resultant mixture was stirred for 1 hour. To the mixture, 1-chloro-4-{[4-(chloromethyl)phenoxy]methyl}benzene (183 mg, 0.69 mmol) was added and the resultant mixture was stirred at 50° C. for 2 hours and at 70° C. for 3 days. After the completion of the reaction, water and ethanol were added to the reaction solution and a resultant solid was filtered to obtain a crude product of a precursor (66St) of the title compound, which was used as it was in the next reaction below.

reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | 0.69 mmol, 200 mg | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(NC(N1)=O)=O | C13H14FN5O2
reactant | lithium hydride | 1.51 mmol, 12 mg | [H-].[Li+]
reactant | 1-chloro-4-{[4-(chloromethyl)phenoxy]methyl}benzene | 0.69 mmol, 183 mg | ClC1=CC=C(C=C1)COC1=CC=C(C=C1)CCl | C14H12Cl2O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-{4-[(4-Chlorobenzyl)oxy]benzyl}-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | ClC1=CC=C(COC2=CC=C(CN3C(NC(=NC3=O)N3CCN(CC3)C3=CC=C(C=C3)F)=O)C=C2)C=C1 | C27H25ClFN5O3
